US05932594
Preparation of 3-(R)-(1-cyano-1,1-diphenylmethyl)-1-(4-hydroxy-3-methoxyphenethyl)piperidine
A mixture containing 3-(R)-(1-cyano-1,1-diphenylmethyl)-piperidine (0.3 g), 4-hydroxy-3-methoxyphenethyl chloride (0.233 g--see Preparation 6), anhydrous potassium carbonate (0.5 g), potassium iodide (0.2 g) and acetonitrile (15 ml) was heated under reflux for 5 hours. The mixture was partitioned between dichloromethane (40 ml) and 10% aqueous potassium carbonate (30 ml), the layers separated, and the aqueous layer extracted with dichloromethane (2×30 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a foam which was purified by column chromatography on silica eluting with dichloromethane containing methanol (5%). The product-containing fractions were combined and concentrated in vacuo to give a gum which was crystallised from acetonitrile to give the title compound as colourless rhombs, yield 0.132 g, m.p. 159-160°.

reactant | 3-(R)-(1-cyano-1,1-diphenylmethyl)-piperidine | 0.3 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CNCCC1 | C19H20N2
reactant | 4-hydroxy-3-methoxyphenethyl chloride | 0.233 g | OC1=C(C=C(CCCl)C=C1)OC | C9H11ClO2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-(R)-(1-cyano-1,1-diphenylmethyl)-1-(4-hydroxy-3-methoxyphenethyl)piperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(CCC1)CCC1=CC(=C(C=C1)O)OC | C28H30N2O2
